US08193236B2
3-(6-Hydroxymethyl-2-methyl-imidazo[1,2-a]pyrazin-3-yl)-4-(1H-indol-3-yl)-pyrrole-2,5-dione
Hydrochloric acid (1.0 ml of a 4.0 M solution in dioxane) is added to 3-[6-(tert-butyl-diphenyl-silanyloxymethyl)-2-methyl-imidazo[1,2-a]pyrazin-3-yl]-4-(1H-indol-3-yl)-pyrrole-2,5-dione (60 mg, 0.098 mmol). The reaction mixture is heated to 50° C. for 16 hours under an atmosphere of argon. After cooling, volatiles are removed in vacuo, and the residue is purified by flash chromatography (gradient of CH2Cl2/MeOH 100:0 to 90:10) to afford the title compound (25 mg, 68%). MS (ES+): 374 (M+H)+.

reactant | Hydrochloric acid | Cl | ClH
reactant | 3-[6-(tert-butyl-diphenyl-silanyloxymethyl)-2-methyl-imidazo[1,2-a]pyrazin-3-yl]-4-(1H-indol-3-yl)-pyrrole-2,5-dione | 0.098 mmol, 60 mg | C(C)(C)(C)[SiH2]OC(C=1N=CC=2N(C1)C(=C(N2)C)C=2C(NC(C2C2=CNC1=CC=CC=C21)=O)=O)(C2=CC=CC=C2)C2=CC=CC=C2 | C36H33N5O3Si
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-(6-Hydroxymethyl-2-methyl-imidazo[1,2-a]pyrazin-3-yl)-4-(1H-indol-3-yl)-pyrrole-2,5-dione | 25 mg, 68% | OCC=1N=CC=2N(C1)C(=C(N2)C)C=2C(NC(C2C2=CNC1=CC=CC=C21)=O)=O | C20H15N5O3
